US07160887B1
A mixture of 2-chloro-3-nitropyridine (4.76 g, 30 mmols), N-tert-butoxycarbonyl-3-hydroxyphenethylamine (7.11 g, 30 mmols), potassium carbonate (4.14 g, 30 mmols) and N,N-dimethylformamide (50 ml) was stirred at 100° C. for 12 hours. The reaction mixture was cooled, then poured into water, and then extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate, and the solvent was evaporated away. The residue was purified through silica gel column chromatography to give an yellow oil of tert-butyl[2-[3-(3-nitro-2-pyridyloxy)phenyl]ethyl]carbamate (10.1 g, 92.5%).

reactant | 2-chloro-3-nitropyridine | 30 mmols, 4.76 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | N-tert-butoxycarbonyl-3-hydroxyphenethylamine | 30 mmols, 7.11 g | C(C)(C)(C)OC(=O)NCCC1=CC(=CC=C1)O | C13H19NO3
reactant | potassium carbonate | 30 mmols, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl[2-[3-(3-nitro-2-pyridyloxy)phenyl]ethyl]carbamate | 10.1 g, 92.5% | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)OC1=NC=CC=C1[N+](=O)[O-])=O | C18H21N3O5
